US05466689
Methyl 1-(2,4,6-triisopropylphenylsulfonyl)-indole-3-propionate
Sodium hydride (60% oil 19.03 g 0.476 mol) was washed with n-hexane, and was suspended in DMF (500 ml). To the suspension was gradually added a solution of ethyl indole-3-propionate acid (64.79 g 0.317 mol) in DMF(100 ml). The mixture was stirred for one hour at 40°-50° C., and to the mixture was gradually added, under ice-cooling, 2,4,6-triisopropylphenylsulfonyl chloride (115.25 g, 0.38 mol), followed by stirring for one hour at room temperature. To the reaction mixture was added water (150 ml), and the mixture was subjected to extraction with n-hexane (500 ml). The extract solution was washed with water (100 ml) and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to to leave the title compound (152 g).

reactant | Sodium hydride | 0.476 mol, 19.03 g | [H-].[Na+]
reactant | ethyl indole-3-propionate | 0.317 mol, 64.79 g | N1C=C(C2=CC=CC=C12)CCC(=O)OCC | C13H15NO2
reactant | 2,4,6-triisopropylphenylsulfonyl chloride | 0.38 mol, 115.25 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
reactant | water | 150 ml | O | H2O
solvent | n-hexane | CCCCCC | C6H14
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Methyl 1-(2,4,6-triisopropylphenylsulfonyl)-indole-3-propionate | 152 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)N1C=C(C2=CC=CC=C12)CCC(=O)OC | C27H35NO4S
